US05453424
(17) 3-Amino-2-pivaloylfuran
A solution of t-butyl (2-pivaloylfuran-3-yl)carbamate (2.15 g, 8.0 mmol) in ethyl acetate (25 ml) was saturated With anhydrous hydrogen chloride gas at 0° C. The solution was stirred at ambient temperature for 5 hours. and then was evaporated to dryness in vacuo. The residual solid was taken up in ethyl acetate (50 ml) and saturated NaHCO3 (20 ml). Additional solid NaHCO3 was added to basify the mixture. The ethyl acetate extract was separated, washed with saturated NaCl, dried over Na2SO4, filtered and concentrated in vacuo to an amber liquid (1.34 g).

reactant | t-butyl (2-pivaloylfuran-3-yl)carbamate | 8.0 mmol, 2.15 g | C(C(C)(C)C)(=O)C=1OC=CC1NC(OC(C)(C)C)=O | C14H21NO4
reactant | hydrogen chloride | Cl | ClH
solvent | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
product | 3-Amino-2-pivaloylfuran | NC1=C(OC=C1)C(C(C)(C)C)=O | C9H13NO2
